US05411980
Step B: 5-[4'-(Azidomethyl)biphenyl-2-yl]-N-trityltetrazole
To a stirred suspension of 11.15 g (20 mmole) of 5-[4'-(bromomethyl)biphenyl-2-yl]-N-trityltetrazole [P. E. Aldrich, M. E. Pierce, and J. J. V. Duncia, European Patent Application 291,969 (1988)]in 55 ml of dry DMSO was added 1.23 g (25 mmole) of freshly pulverized lithium azide, and the mixture was stirred at room temperature under N2. Within a few minutes virtually all of the solid had dissolved, accompanied by a mild exotherm, and this was followed immediately by precipitation of product. After 4 hours the solid was collected on a filter and washed with some methanol, then with a relatively large volume of H2O, and finally again with methanol. The solid was air-dried overnight and-then dried further in a vacuum oven at 70° C. (<1 mm) to give 8.60 g (83%) of white crystals, mp 139°-140.5° C. dec., satisfactory purity by TLC (9:1 hexane-ethyl acetate) for use in the next step. From the combined filtrate and washes was recovered a less pure second crop (1.68 g of cream-colored crystals, mp 129°-132° C. dec.), which was also usable in the next step. Mass spectrum (FAB) m/e 243 (trityl cation); IR (Nujol) 2100 cm-1.

reactant | 5-[4'-(bromomethyl)biphenyl-2-yl]-N-trityltetrazole | 20 mmole, 11.15 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | lithium azide | [N-]=[N+]=[N-].[Li+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-[4'-(Azidomethyl)biphenyl-2-yl]-N-trityltetrazole | 8.60 g, 83% | N(=[N+]=[N-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N7
